Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
meropenem / Levaquin / vancomycin
 
Attending: ___
 
Chief Complaint:
cough, nausea, vomiting, shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of AML s/p MRD allo Flu/BU4 ___
complicated by chronic GVHD who presents to clinic with cough. 
He
states he was feeling generally well until last ___, when
he started having a cough, as well as nausea and 2 episodes of
vomiting last ___, and over the weekend he also had
chills and 1 episode of diarrhea. He also became short of 
breath,
even at rest. He denies sick contacts, but he did go to ___ last
week for a dental appointment (but left before he saw a
provider). 

He presented to ___ clinic today for his scheduled
appointment. There, he was found to be hypoxemic to 87%. He
received zosyn 4.5g IV and azithromycin IV 500mg as well as IVF.
He had a chest CT which showed new ground-glass opacification
throughout the lungs, as well as new ___ opacities in 
the
left lower lobe concerning for infectious process. Labs were
notable for ALT 57, AST 50, AP 304, LDH 339. Rapid flu negative.
He was then admitted to the ___ service.

He was previously hospitalized from ___ for weight loss,
fatigue, and decreased oral intake.

On the floor, the patient was in NAD, however, felt slightly
short of breath. He agrees with the above history.

 
Past Medical History:
___ Induction 7 and 3 daunorubicin 90 mg/M2 
 D+ 14 BMBx Ablated marrow
 D+ 29  BMBx complete remission, molecular testing negative
___ HIDAC #1 consolidation 
 D+ 35  BMBx complete remission, molecular testing negative

ALLOGENEIC TRANSPLANT
ADMIT DATE: ___
DISCHARGE DATE: ___
CONDITIONING REGIMEN: Myeloablative Fludarabine/ Busulfan on
DF/___ Protocol ___ 
DAY 0: ___
CD34/kg = 19.24e6
DONOR: brother ABO: A pos, CMV: negative
RECIPIENT: ABO:  A pos, CMV: positive. 
ABO INC: none
___ ENGRAFTMENT: ___ (D+15)
PLT ENGRAFTMENT: ___ (D+12)
PRBC TRANSFUSION: 2 pRBC
PLT TRANSFUSION: None
POST TRANSPLANT IN PATIENT COMPLICATIONS: mucositis, diarrhea on
D+17
D+27 thrombocytopenia
D+29 Staph coag positive BCX positive/ ___ removed
D+___
D+___ started on Valganciclovir 900 mg bid
D+43 Fever Influenza A positive
D+44 CT scan pulmonary nodules started on Voriconazole
D+47 IVIG 400 mg/kg x 1
D+80 grade IV gut GVHD, 
D+___ Severe ocular GVHD  Ocular surface reconstruction with
sutured amniotic membrane, both eyes
D+178 chimerism 95% donor
D+190 lap appendectomy (___) showed appendiceal mucinous
neoplasm
D+ 197 decrease MMF from 1000 mg to 500 mg bid, started Effexor
D+ 216 stop MMF, chimerism 98% donor
D+ 244 decrease Tacro to 1 mg pm and 1.5 mg am
D+ 259 acute ___ edema and skin blisters unclear etiology
D+ 267 decrease Tacro to 1 mg pm and 1 mg am
D+ 281 ECHO EF 45%, PFTS worsening obstruction and DLCO,
hypogammaglobulinemia, no change in his immunosuppression,
chimerism 98% donor 
D +295 Skin (+) GVHD, Lung (+) BOOP
D +309 Prednisone 40mg for pulmonary GVHD
D + 318 chimerism 99% donor (___)
D +344 CT scan better, Prednisone decreased to 20 mg daily 
D +377 Subconjunctival cyst removal L
D+ 437 decrease of prednisone to 15 mg and tarcolimus 0.5 mg bid
D +455 prednisone 10mg PO daily per OMR note, cont. ___ at
0.5mg PO BID.
D +482 currently prednisone 10mg PO daily- decreased to 7.5mg
daily, tacro increased at prior visit 1.5mg daily- unchanged.
D + 517, currently prednisone 7.5mg PO daily. No change d/t new
rash on upper chest and upper back, referred to derm same day.
D +528, currently on prednisone 5mg PO daily. On Tacro 1.5mg PO
daily. 
D + 584, reduced prednisone dose from 4 mg PO daily to 3mg PO
daily. Cont. on tacro 1.5mg daily as ordered. 
D + 617, reduced tacrolimus to 1mg daily, cont. prednisone at 
3mg daily. 
D+ 671, reduced prednisone to 2 mg daily. cont. tacro at 1mg
total daily dose. DELAYED 12 MONTHS vaccinations: ___: 
-TDap, HepB.Prevnar 13, Polio
D+ 698 reduced prednisone to 1 mg daily. cont. tacro from 7 mg /
week to 5 mg per week.
D+731 reduced prednisone to 1 mg every other day and tacro to 
3.5mg per week, 14 MONTHS vaccinations: ___: 
-TDap, HepB, H.flu, Polio

D+808 discontinued tacro. PCV13 given.
 
D + 848 ___ extensive chronic GVHD, admit for mucositis
amnd transaminitis, LIVER BIOPSY (+) discharged on prednisone 50
mg BID and MMF 1000 mg TID

D + 869 ( ___ MMF 1000 mg TID lower prednisone to 50 mg 
daily

D + 876 ___ for 30 lbs fluid retention, discharged
on MMF 1000 mg BID and prednisone 40 mg daily

D + 888 (___) MMF 1000 mg bid and prednisone lowered to 30 
mg daily 

D+899 (___) MMF 1000mg BID and prednisone lowered to 20mg
daily.

D+911 (___) MMF 1000mg BID and prednisone lowered to 15mg
daily. 

D+946 (___) MMF 1000mg BID, lowered prednisone to 10mg 
daily.

D+979 (___) lowered MMF to 500mg BID, cont. prednisone 10mg
PO daily. Ursodiol discontinued. 

D+995 (___) cont MMF to 500mg BID, lowered prednisone to 
7.5mg PO daily. 

D+1015 admission to the hospital for  acquired factor VIII
inhibitor, treated with FIBA, additional myelosuppression of
rituximab 3 75 mg/m² weekly ×4 with Cytoxan 150 mg daily

D+1039  rituximab dose ___

D+1046  LOWER Cytoxan to 100mg PO daily. Normal Factor VIII.

D+___ Hospitalized for weakness, diagnosed with
diverticulitis. His immunosuppression was lowered due to
neutropenia to MMF 500 ___ and cytoxan was stopped.

D+1079 counts excellent increased MMF to 500 mg BID

PAST MEDICAL HISTORY:
- AML complicated by GVHD (eyes, skin, oral mucosa, liver, GI)
- HTN 
- BOOP
- Appendiceal mucinous neoplasm s/p appendectomy ___
- Lyme disease
- s/p cataracts removal ___
- Depression
- Neuropathy from chemotherapy
- L trimalleolar fracture, thought to be due to steroid induced
- Osteopenia
- R distal tibia fracture, thought to be due to steroid induced
- Acquired factor VIII inhibitor, found incidentally on workup
during last hospitalization ___
 
Social History:
___
Family History:
Mother with ovarian cancer. Father with asbestosis and renal 
failure. No history of hematologic malignancies.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
___ 1707 Temp: 97.6 PO BP: 103/68 HR: 68 RR: 16 O2 sat: 96%
O2 delivery: 4 LNC 
GENERAL: Pleasant man, slightly dyspneic and coughing but in no
distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear. conjunctiva injected, moist
mucosa membranes. Edentulous, except for clear L upper molar 
with
small fragment noted, no erythema, tenderness or discharge.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: bibasilar crackles, diffuse rhonchi, worse in R, scattered
expiratory wheezing bilaterally 
ABD: Soft, non-tender, non-distended, +bowel sounds.
EXT: WWP, no lower extremity edema, erythema or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch 
intact.
SKIN: No significant rashes or new lesions.

DISCHARGE PHYSICAL EXAM
========================
VS: Temp: 97.9 PO BP: 108/68 HR: 90 RR: 18 O2 sat:
95% O2 delivery: Ra   
GENERAL: Middle aged man sitting in bed, no distress
HEENT: Anicteric, PERLL, OP clear. moist mucosa membranes.
Edentulous, except for clear L upper molar with
small fragment noted, no erythema, tenderness or discharge.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: bibasilar crackles
ABD: Soft, non-tender, non-distended, +bowel sounds.
EXT: WWP, no lower extremity edema, erythema or tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. 
SKIN: No significant rashes or new lesions.
 
Pertinent Results:
ADMISSION LABS
--------------
___ 08:25AM BLOOD WBC-6.1 RBC-4.72 Hgb-12.9* Hct-39.6* 
MCV-84 MCH-27.3 MCHC-32.6 RDW-19.3* RDWSD-57.6* Plt ___
___ 08:25AM BLOOD Neuts-37 Bands-4 ___ Monos-21* 
Eos-2 Baso-0 ___ Metas-2* Myelos-1* AbsNeut-2.50 
AbsLymp-2.01 AbsMono-1.28* AbsEos-0.12 AbsBaso-0.00*
___ 08:25AM BLOOD UreaN-22* Creat-0.9 Na-135 K-4.7 Cl-93* 
HCO3-26 AnGap-16
___ 08:25AM BLOOD ALT-57* AST-50* LD(LDH)-339* AlkPhos-304* 
TotBili-0.4
___ 08:25AM BLOOD TotProt-6.3* Albumin-3.9 Globuln-2.4 
Calcium-9.4 Phos-3.4 Mg-1.8
___ 08:25AM BLOOD IgG-560*

___. New ground-glass opacification seen throughout the lungs, but 
predominating in the right middle lobe and lingula as well as 
new ___ opacities in the left lower lobe concerning for 
infectious process including PCP, ___, or atypical 
pneumonia.  No findings to suggest graft versus host disease. 
2. Unchanged areas of subpleural reticular scarring suggestive 
of mild/early interstitial lung disease. 
3. Mild emphysema. 

___ilateral ground-glass opacities in a perihilar distribution 
predominantly 
within mid to upper zones bilaterally could represent 
interstitial pneumonitis rather than pneumonia.  No new 
consolidations concerning for pneumonia. 

RUQ US ___
Echogenic and mildly coarsened hepatic echotexture, with no 
focal lesions 
identified. 

MRCP ___
Unremarkable study.  In particular, no evidence of hepatobiliary 
disease.

DISCHARGE LABS
---------------
___ 06:40AM BLOOD WBC-9.2 RBC-3.95* Hgb-11.0* Hct-33.9* 
MCV-86 MCH-27.8 MCHC-32.4 RDW-19.9* RDWSD-59.3* Plt ___
___ 06:40AM BLOOD Neuts-65.0 Lymphs-17.2* Monos-14.7* 
Eos-0.8* Baso-1.1* NRBC-0.2* Im ___ AbsNeut-5.99 
AbsLymp-1.58 AbsMono-1.35* AbsEos-0.07 AbsBaso-0.10*
___ 06:40AM BLOOD Glucose-94 UreaN-37* Creat-1.1 Na-138 
K-5.6* Cl-95* HCO3-31 AnGap-12
___ 06:40AM BLOOD ALT-242* AST-102* LD(LDH)-227 
AlkPhos-232* TotBili-0.3
___ 06:40AM BLOOD Albumin-3.4* Calcium-9.5 Phos-5.1* Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of AML s/p 
MRD allo Flu/BU complicated by chronic GVHD who presents with 
hypoxemia and cough, found to be parainfluenza positive.

#Parainfluenza respiratory infection
#Hypoxemia, resolved
#Cough
He was hypoxemic to the high 80's in clinic, and had a new 
oxygen requirement (up to 4L NC). In clinic, he had a chest CT 
which showed new ground-glass opacification throughout the 
lungs, as well as new ___ opacities in the left lower 
lobe concerning for infectious process. He received zosyn 4.5g 
IV and azithromycin IV 500mg as well as IVF. Viral PCR found to 
be parainfluenza positive. He completed a 5 day course of 
azithromycin 250mg QD (last day ___. Blood, sputum cultures, 
strep and legionella antigen, mycoplasma were unremarkable. ID 
consulted and pulmonary were consulted. Initially planned for 
bronchoscopy, but cancelled because symptoms could be explained 
by parainfluenza infection. Plan is to f/u in pulmonary clinic 
for PFT testing. Pulmonary also recommended a 5 day course of 
prednisone 40mg, but the patient refused, since he had a bad 
experience with steroids in the past (ankle fractures), however 
he did agree to a 1x dose of solumedrol 60mg IV. Cough improved 
throughout the hospitalization and he was eventually weaned back 
to room air. He also eventually agreed to a short prednisone 
course (30mg x1, 20mg x1, then back to home 10mg qd). His 
symptoms improved and he was discharged home on room air.

#Hypotension - resolved
#Hx of Adrenal Insufficiency
During previous hospitalization in ___, endocrine was 
consulted and recommended stress dose steroids in the event of 
an acute illness. He received 20mg of prednisone on ___ and 
15mg of prednisone on ___ and was then on 10mg daily. He 
received IV hydrocort overnight ___ for soft BPs in the 
80-90's, then continued home prednisone 10mg qd.

#Transaminitis 
Admission labs were notable for ALT 57, AST 50, AP 304, LDH 339. 
Patient does admit to drinking alcohol prior to admission, which 
may have caused his initial transaminitis. His LFTs also rose 
after he received IVIG on ___, for which hepatology was 
consulted. Hepatology thinks the transaminitis can be attributed 
to IVIG. His LFTs improved without treatment. RUQ u/s and MRCP 
were reassuring.

#s/p Tooth extractions
#Upper left retained root fragment
S/p all tooth extractions in ___. However, during last 
hospitalization, L molar with root intact per panorex. No 
signs/symptoms of infection including erythema, edema, fevers or 
pain on palpation. He was seen by dental in-house but procedure 
was planned for outpatient. OMFS was consulted, states it would 
be easier logistically for patient to be discharged to clinic at 
___. 

#Anemia
Hgb was 12.9 on ___. Blood counts were monitored daily during 
this hospital stay.

#Hypogammaglobinemia
IgG 560 on admission. He received half a dose of IVIG on ___.

#AML
Diagnosed ___ with AML Flt3-ITD underwent MRD allo ___. 
Transplant course complicated by acquired hemophilia and severe 
chronic GVHD with liver, skin, oral mucosa involvement. He was 
continued on home acyclovir for ppx.

#Severe Chronic GVHD: Liver, skin, oral mucosa involvement. 
Continued cellcept 500mg BID, budesonide 3mg BID, steroids as 
above.

#Hx of CMV viremia
#Hx of EBV low level
CMV viremia detectable on ___, low level detectable <2.1 on 
___. 
Continued home acyclovir for ppx.

#Protein calorie Malnutrition
Previously admitted for weight loss, appetite has been good 
since discharge.
Continued to encourage PO intake, ensures.

#Bilateral ankle fx
Related to chronic steroid use and osteoporosis he would benefit 
from bone directed therapy with bisphosphonates. Will need to 
wait a few additional weeks post tooth extraction prior to 
administering bisphosphonates therapy. 

#Depression: Continued home citalopram

#Hypertension: 
Held home metoprolol iso hypotension on admission. Restarted on 
discharge.

#Peripheral Neuropathy: Continued home Lyrica

#GERD: Continued pantoprazole

TRANSITIONAL ISSUES
[ ] Consider starting bisphosphonates therapy for 
steroid-related fractures

[ ] LFTs should be checked on ___ for monitoring. He 
will need medical care if they continue to increase.
[ ] Patient has a follow up appointment on ___ with 
dental clinic at ___ to remove upper left retained root fragment
[ ] Follow up with Dr ___ on ___.
[ ] Patient advised to also follow up with primary pulmonolgist 
Dr ___. Call his office for follow up in next 4 weeks.

[ ] Home metoprolol was held in setting of hypotension. Consider 
restarting if patient becomes hypertensive.

CODE: Full Code (confirmed)
EMERGENCY CONTACT HCP: ___ (friend) ___
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
2. Acyclovir 400 mg PO Q8H 
3. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 
4. Citalopram 40 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. LORazepam 0.5 mg PO QHS:PRN insomnia 
7. Metoprolol Tartrate 25 mg PO BID 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Mycophenolate Mofetil 500 mg PO BID 
10. OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - 
Moderate 
11. Pantoprazole 40 mg PO Q24H 
12. Pregabalin 150 mg PO BID 
13. Vitamin D ___ UNIT PO DAILY 
14. PredniSONE 10 mg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 10 mg PO DAILY  
2.  Acyclovir 400 mg PO Q8H  
3.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
4.  Citalopram 40 mg PO DAILY  
5.  FoLIC Acid 1 mg PO DAILY  
6.  LORazepam 0.5 mg PO QHS:PRN insomnia 
RX *lorazepam 0.5 mg 1 tablet by mouth daily before bedtime Disp 
#*7 Tablet Refills:*0 
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Mycophenolate Mofetil 500 mg PO BID  
9.  OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every 8 hours as needed 
for pain Disp #*15 Tablet Refills:*0 
10.  Pantoprazole 40 mg PO Q24H  
11.  Pregabalin 150 mg PO BID 
RX *pregabalin [Lyrica] 150 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
12.  Vitamin D ___ UNIT PO DAILY  
13. HELD- Metoprolol Tartrate 25 mg PO BID  This medication was 
held. Do not restart Metoprolol Tartrate until you speak with 
your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
--------
Parainfluenza respiratory infection
hypoxemia
cough
hypotension
transaminitis

Secondary
-----------
history of adrenal insufficiency
retained tooth root fragment
anemia
hypogammaglobinemia
acute myelogenous leukemia s/p transplant
chronic graft vs host disease
history of CMV and EBV viremia
protein calorie malnutrition
bilateral ankle fracture
depression
hypertension
peripheral neuropathy
gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires brace and cane

 
Discharge Instructions:
Dear Mr ___,

You presented to ___ because you had a cough 
and shortness of breath.

While in the hospital, you required oxygen therapy. You also 
received medication to help you with the cough. Lab testing 
showed that you had an infection with a virus called 
parainfluenza, which was likely the cause of your symptoms.

Your liver lab tests were also abnormal, so you received imaging 
of your liver which were reassuring. 

You also had xrays of your ankles because you were having pain. 
The images showed no new fractures.

After you leave the hospital, it is important that you continue 
taking your medications as prescribed and follow up with your 
doctors in ___.

We wish you the best,

Your ___ team
 
Followup Instructions:
___